data/specific_train_final.csv
"CC(COCO[O:20])O.[N+](=O)([O-])[O:10]>>CC(COCO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(C[O:21][O:20][O])O[N+](=O)[O-].[N+](=O)[O-]>>CCC(C)(C[O:21])O[N+](=O)[O-].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC1=C(C2C(C([C:10]1O)OO2)O)C.[O:20][O]>>CCC1=C(C2C(C([C:10]1(O)[O:20][O])OO2)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:21]1=[CH:20]C=CC=C1O.[OH:10]>>C[C:21]1[CH:20](C=CC=C1O)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C(C(O[O:20])(Cl)Cl)(Cl)Cl.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])(Cl)Cl)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"c1ccccc1C(CO)O[O:10].[H:20][O:21][O]>>c1ccccc1C(CO)O[O:10][H:20].[O:21][O] 10-10,20; 20,21-10,20; 20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCC(CO[O:10])O[N+](=O)[O-]>>[H:20][O:10]OCC(CCC)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH3:1][CH2:2][C:3]12[CH:12]=[CH:11][CH:9]([CH:8]([CH:6]1[OH:7])[O:5][O:4]2)[O:10].[N:14](=[O:15])[O:13]>>[CH3:1][CH2:2][C:3]12[CH:12]=[CH:11][CH:9]([CH:8]([CH:6]1[OH:7])[O:5][O:4]2)[O:10].[N+:14](=[O:15])[O-:13] 14-13,Room Temperature,Propagation,ha resonance
"[H:10][C:4]1([C:5]([CH2:6][O:7][O:8]1)[CH3:9])[CH:3]([OH:11])[O:2][OH:1]>>[H:10][C:4]([CH:3]([OH:11])[O:2][OH:1])([C:5](=[CH2:6])[CH3:9])[O:8][O:7] 5-5,6; 7,6-5,6; 7,6-7",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].CCCC(C)CO[O:10]>>[H:20][O:10]OCC(C)CCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(CCl)O[O:20].[N+](=O)([O-])[O:10]>>C(CCl)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][CH2:2][C:3]1([CH:5]=[C:6]([CH:7]2[C:9]([CH:10]1[OH:11])([O:8]2)[CH2:12][CH3:13])[CH3:14])[O:4]>>[CH3:1][CH2:2][C:3](=[O:4])[CH:5]=[C:6]([CH3:14])[CH:7]1[C:9]([O:8]1)([CH2:12][CH3:13])[CH:10][OH:11] 10,3-3,4; 4-3,4; 10,3-10",Room Temperature,Propagation,retroaddition
"C(CCl)O[O:20].[N:10]=O>>C(CCl)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]SC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CS[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](=O)C1(C(O1)(C)C=CC(=O)C)C.[OH:10]>>[H:20][OH:10].CC(=O)C=CC1(C(O1)(C)[C:21]=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O]C([H])(O[S:10]([O:20])=O)[H]>>[O]C([H])(O[S:10](=[O:20])=O)[H] 10-10,20;20-10,20",Room Temperature,Propagation,resonance
"C[C:21]([CH:22]=[CH2:23])([CH2:20]O[H])[O:30].[O-:31][N+:40]=[O:41]>>C[C:21]([CH:22]=[CH2:23])([CH2:20]O[H])[O:30][N+:40]([O-:31])=[O:41] 30-30,40;40-30,40",Room Temperature,Termination,recombine
"C(C([O:20][O:21][O])Br)Br.[N+](=O)[O-]>>C(C([O:20])Br)Br.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C/[C:21]/1=[CH:20]\CCC(=C)[C@@H]2CC([C@H]2CC1)(C)C.[N+](=O)([O-])[O:10]>>C[C:21]1CC[C@H]2[C@@H](CC2(C)C)C(=C)CC[CH:20]1[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC[CH:10]CO[N+](=O)[O-].[O:20][O]>>CCCC[CH:10](CO[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C[O:20][O:21]N=O)O[N+](=O)[O-]>>CCC(C[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC/[CH:20]=[CH:21]\C.[N+](=O)([O-])[O:10]>>CC[CH:20]([CH:21]C)[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CCCCCCCCCC(CC)O[O:10]>>[H:20][O:10]OC(CC)CCCCCCCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=C(C=C(C=C1)C[O:20][O:21]N=O)C>>CC1=C(C=C(C=C1)C[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC12C=CC(C(C1(C)O)(OO2)C)O[O:20].[N+](=O)([O-])[O:10]>>CC12C=CC(C(C1(C)O)(OO2)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(C(C)O[O:10])O>>[H:20][O:10]OC(C)C(CC)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=O)CC(C)(C[O:20][O:21]N=O)O>>CC(=O)CC(C)(C[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:11][O:10][O:9][CH2:8][CH:7]=[C:2]([CH3:1])[CH:3]([OH:6])[O:4][O:5]>>[H:11][O:5][O:4][CH:3]([C:2](=[CH:7][CH2:8][O:9][O:10])[CH3:1])[OH:6] 5-5,11; 10,11-5,11; 10,11-10",Room Temperature,Propagation,abstraction
CC(OCC([O])CC)=O.[O:21][N:10]=O>>CC(OCC([O])CC)=O.[O-:21][N+:10]=O 10-21,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].CC1=CC2(C(C(C1O[O:10])(OO2)C)O)C>>[H:20][O:10]OC1C(=CC2(C(C1(OO2)C)O)C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCC(=O)O[O:20].[N:10]=O>>CCCCC(=O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
